US05177102
5-{[(3,7,11,15,19,23,27,31,35,39-Decamethyl-2,6,10,14,18,22,26,30,34,38-tetracontadecaen-1-yl)amino]methyl}-1-azabicyclo[3.3.0]octane
Under an atmosphere of argon, a solution of 1-bromo-3,7,11,15,19,23,27,31,35,39-decamethyl-2,6,10,14,18,22,26,30,34,38-tetracontadecaene [8.00 g, 10.5 mmol, prepared as described in Example 4-a)] in 48.0 ml of benzene was added in dropwise to a solution of 5-aminomethyl-1-azabicyclo-[3.3.0]octane (1.76 g, 12.6 mmol) in 48.0 ml of benzene at 15° C. and the resulting solution was stirred at 50° C. for 5 hours. The solvent in the reaction mixture was evaporated in vacuo to dryness and the remaining residue was partitioned between chloroform and 10% sodium hydroxide aqueous solution. The organic layer was washed with saturated sodium chloride aqueous solution, dried over anhydrous sodium sulfate, filtered and evaporated in vacuo to dryness to give a brown residue. The residue was chromatographed on silica gel, eluting with CH2Cl2 /MeOH (10.0:0-10:1.5) to afford 4.4 g (51.1%) of the desired compound, as colorless crystals.

reactant | 1-bromo-3,7,11,15,19,23,27,31,35,39-decamethyl-2,6,10,14,18,22,26,30,34,38-tetracontadecaene | BrCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(C)C)C)C)C)C)C)C)C)C)C | C50H81Br
reactant | 5-aminomethyl-1-azabicyclo-[3.3.0]octane | 12.6 mmol, 1.76 g | NCC12CCCN2CCC1 | C8H16N2
solvent | benzene | 48.0 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 48.0 ml | C1=CC=CC=C1 | C6H6
product | 5-{[(3,7,11,15,19,23,27,31,35,39-Decamethyl-2,6,10,14,18,22,26,30,34,38-tetracontadecaen-1-yl)amino]methyl}-1-azabicyclo[3.3.0]octane | 4.4 g, 51.1% | CC(=CCNCC12CCCN2CCC1)CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(C)C)C)C)C)C)C)C)C)C | C58H96N2
